US07906654B2
Synthesis of 1-[1-(2-Hydroxyethyl)-1H-benzimidazol-7-yl]ethanone
A solution of 1-(2-hydroxyethyl)-1H-benzimidazole-7-carbonitrile (0.29 g, 1.5 mmol) in dry THF (6.2 ml) is cooled to −78° C. and MeLi (5.8 mL, 9.3 mmol) is added slowly. After the addition the reaction mixture is allowed to warm up to ambient temperature and kept such for 30 min. The temperature is brought down to −78° C. again and water (4 ml) was added slowly. After warming up the reaction mixture is acidified to pH 4 and heated at 50° C. for 30 min. Solvents are removed under reduced pressure and the residue is partitioned between ethyl acetate and aq. NaHCO3. The organic extract is further washed with water and brine, dried over Na2SO4 and concentrated. Purification is performed on flash silica column using ethyl acetate-methanol as the eluent to give the desired product (0.25 g, 80%).

reactant | 1-(2-hydroxyethyl)-1H-benzimidazole-7-carbonitrile | 1.5 mmol, 0.29 g | OCCN1C=NC2=C1C(=CC=C2)C#N | C10H9N3O
reactant | MeLi | 9.3 mmol, 5.8 mL | [Li]C
reactant | water | 4 ml | O | H2O
reactant | THF | 6.2 ml | C1CCOC1 | C4H8O
product | 1-[1-(2-Hydroxyethyl)-1H-benzimidazol-7-yl]ethanone | 0.25 g, 80% | OCCN1C=NC2=C1C(=CC=C2)C(C)=O | C11H12N2O2
